US08604211B2
Preparation of N-methyl-3-(methylsulfinyl)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide (Compound 18)
Sodium perborate tetrahydrate (52 mg, 0.34 mmol, 1.0 equiv) was added to a stirred solution of N-methyl-3-(methylthio)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide (100 mg, 0.34 mmol, 1.0 equiv) in glacial acetic acid (1.8 mL) at 23° C. The resulting suspension was stirred at 23° C. for 3 h. The reaction mixture was diluted with a saturated solution of sodium bicarbonate (50 mL) and extracted with dichloromethane (5×20 mL). The combined organic layers were dried (Na2SO4), gravity-filtered, and concentrated by rotary evaporation. The residue was rinsed with cold ethyl acetate and vacuum-filtered to afford the title compound as an off-white powder (82 mg, 78% yield): mp 138-140° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.12 (d, J=2 Hz, 1H), 8.71 (dd, J=5, 2 Hz, 1H), 8.34 (m, 1H), 7.56 (dd, J=8, 5 Hz, 1H), 3.80 (s, 3H), 2.90-3.30 (m, 3H), 2.62 (s, 3H); ESIMS m/z 311 ([M+H]+).

reactant | Sodium perborate tetrahydrate | 0.34 mmol, 52 mg, 1.0 equiv | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | N-methyl-3-(methylthio)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide | 0.34 mmol, 100 mg, 1.0 equiv | CN(C(CCSC)=O)C=1SC(=NN1)C=1C=NC=CC1 | C12H14N4OS2
solvent | acetic acid | 1.8 mL | C(C)(=O)O | C2H4O2
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | N-methyl-3-(methylsulfinyl)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide | 82 mg, 78% yield | CN(C(CCS(=O)C)=O)C=1SC(=NN1)C=1C=NC=CC1 | C12H14N4O2S2
